US09422290B2
1-Methyl-5-phenoxy-1H-pyrazole-4-carboxylic acid
1-Methyl-5-phenoxy-1H-pyrazole-4-carboxylic acid ethyl ester (22.55 g; 91.37 mmol) was dissolved in THF/MeOH (1/1) and LiOH in water (7.67 g; 182.73 mmol) was added. After 16 hours at ambient temperature the reaction mixture was washed with EtOAc. The aqueous layer was acidified with 1 N HCl and extracted with EtOAc which was dried and evaporated afterwards.

reactant | 1-Methyl-5-phenoxy-1H-pyrazole-4-carboxylic acid ethyl ester | 91.37 mmol, 22.55 g | C(C)OC(=O)C=1C=NN(C1OC1=CC=CC=C1)C | C13H14N2O3
reactant | LiOH | [Li+].[OH-]
reactant | water | 182.73 mmol, 7.67 g | O | H2O
solvent | THF MeOH | C1CCOC1.CO
product | 1-Methyl-5-phenoxy-1H-pyrazole-4-carboxylic acid | CN1N=CC(=C1OC1=CC=CC=C1)C(=O)O | C11H10N2O3
